US08039500B2
[7-(1-Ethylpropyl)-1-methyl-1H-benzimidazol-2-yl](mesityl)methanol
A solution of n-butyllithium in n-hexane (1.6M solution, 0.25 mL, 0.40 mmol) was added dropwise to a solution of 2-bromo-7-(1-ethylpropyl)-1-methyl-1H-benzimidazole (100 mg, 0.36 mmol) in diethyl ether (4 mL) at 0° C. To the reaction mixture was added a solution of mesitaldehyde (74 mg, 0.50 mmol) in diethyl ether (1 mL) at 0° C. The reaction mixture was stirred for 0.5 hr, and the reaction was quenched by the addition of 1N hydrochloric acid to the mixture, and the mixture was extracted with ethyl acetate. The organics were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by preparative HPLC eluting with a 10-100% water/acetonitrile gradient mixture containing 0.1% trifluoroacetic acid. The fractions containing the title compound were concentrated in vacuo, and the residue was diluted with ethyl acetate and washed with saturated aqueous sodium hydrogen carbonate solution. The organics were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The resulting solid was recrystallized from ethanol/water to give the title compound (20 mg, 0.057 mmol, 16%) as colorless crystals.

reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 0.40 mmol, 1.6M, 0.25 mL | CCCCCC | C6H14
reactant | 2-bromo-7-(1-ethylpropyl)-1-methyl-1H-benzimidazole | 0.36 mmol, 100 mg | BrC1=NC2=C(N1C)C(=CC=C2)C(CC)CC | C13H17BrN2
reactant | mesitaldehyde | 0.50 mmol, 74 mg | C1(=C(C(=CC(=C1)C)C)C=O)C | C10H12O
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 1 mL | C(C)OCC | C4H10O
product | [7-(1-Ethylpropyl)-1-methyl-1H-benzimidazol-2-yl](mesityl)methanol | 0.057 mmol, 20 mg, 16% | C(C)C(CC)C1=CC=CC2=C1N(C(=N2)C(O)C2=C(C=C(C=C2C)C)C)C | C23H30N2O
